US07253192B2
C] {2-Methyl-4-[3-(4-trifluoromethyl-phenyl)-prop-2-ynylsulfanyl]-phenoxy}-acetic acid
A solution of 75 mg (1.7 mmol) of the above prepared {2-methyl-4-[3-(4-trifluoromethyl-phenyl)-prop-2-ynylsulfanyl]-phenoxy}-acetic acid tert-butyl ester in 2 ml dichloromethane was treated at 0° C. with 0.4 ml TFA and stirred at RT for 3 h. The reaction was evaporated, dissolved in toluene and evaporated again (two times). Purification by flash chromatography on SiO2 with a gradient of CH2Cl2/MeOH (98:2 to 9:1) yielded 30 mg of the title compound as white crystals, mp. 130-131° C.

reactant | {2-methyl-4-[3-(4-trifluoromethyl-phenyl)-prop-2-ynylsulfanyl]-phenoxy}-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SCC#CC1=CC=C(C=C1)C(F)(F)F)C)=O | C23H23F3O3S
reactant | TFA | 0.4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | {2-Methyl-4-[3-(4-trifluoromethyl-phenyl)-prop-2-ynylsulfanyl]-phenoxy}-acetic acid | 30 mg | CC1=C(OCC(=O)O)C=CC(=C1)SCC#CC1=CC=C(C=C1)C(F)(F)F | C19H15F3O3S
